Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Ritalin / Sulfa (Sulfonamide Antibiotics) / promethazine / 
Macrolide Antibiotics / ibuprofen / Erythrocin / Decadron / 
azithromycin / cephalexin / erythromycin base / Nubain / 
Phenergan / mushrooms
 
Attending: ___.
 
Chief Complaint:
Cerebral aneurysm 
 
Major Surgical or Invasive Procedure:
___: Right Craniotomy for clipping of right PCOMM aneurysm 
 
History of Present Illness:
___ female presented to clinic for evaluation of a right 
posterior communicating artery aneurysm that was seen on MRA 
imaging.  She has undergone multiple MRI imaging in the past for 
chronic headaches; however, she had never
undergone a vascular imaging.  She does have a family history of 
aneurysms as her father died of a cerebral aneurysm in ___ at 
the age of ___.  That MRA showed a 4-mm right posterior 
communicating artery aneurysm.  She underwent CTA imaging, which 
confirmed the diagnosis. She has chronic headaches.  No new
nausea or emesis, at least no new nausea that is new.  She has 
no numbness, weakness in her arms or legs as well.  She has had 
a 70-pound weight loss over the last six or seven months, which 
is currently being worked up. Patient underwent diagnostic 
angiogram which confirmed a PCOMM aneurysm. 

 
Past Medical History:
IBS
Anxiety
ADD
chronic headache
 
Social History:
___
Family History:
Father, deceased, aneurysm rupture
Mother ischemic stroke with hemorrhagic conversion
 
Physical Exam:
ON ADMISSION:
=============

Gen: WD/WN, comfortable, NAD.
HEENT: PERRL, EOMs full without nystagmus
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, flat
affect.
Orientation: Oriented to person, place, and date.
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to 2
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch.

=
=
=
================================================================

ON DISCHARGE:
============

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  ___ bilat

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]No   Tongue Midline: [x]Yes [ ]No

Pronator Drift: [ ]Yes [x]No   Speech Fluent: [x]Yes [ ]No

Comprehension intact: [x]Yes [ ]No

Motor:
Deltoid BicepTricepGrip
Right5        5      5        5
Left5        5      5        5

IPQuadHamATEHLGast
Right5        5      5       5        5       5
Left5        5      5       5        5       5

[x]Sensation intact to light touch

Wound:
[x]OTA 
[x]Clean, dry, intact

 
Pertinent Results:
Please see OMR for pertinent imaging and lab results. 
 
Brief Hospital Course:
___ presented to ___ for admission prior to surgery 
and pre-surgical hydration on ___. Later that day she was 
taken to the OR for Right craniotomy for clipping of PCOMM 
aneurysm. Patient tolerated the procedure well. Please see 
formal op report in OMR for further intra operative details. She 
was successfully extubated and transferred to PACU for post op 
management.

#PCOMM aneurysm
The patient is now s/p right crani PCOMM aneurysm clipping 
performed ___. She was transferred from the PACU to the ___ 
for Q2h neuro checks and ongoing care and surveillance. She 
remained neurologically intact throughout her time in the ___ 
and was made floor status on POD#2. On POD#3, patient received 
IV decadron x1 for right periorbital edema.

#Pain Control
On POD1, the patient continued to have headaches that were 
controlled with PO and IV management. Acute pain management was 
consulted. After evaluating the patient, they recommended 
switching her Oxycodone PO prn to Dilaudid ___ Q4hrs prn 
severe pain. She remained on APAP prn, Fioricet prn, 
Cyclobenzaprine prn, Gabapentin and Tizanadine. Her IV pain 
medications were discontinued on POD#2.

#Asymptomatic hypotension
Overnight on POD#3, patient experienced a brief episode of 
asymptomatic hypotension likely secondary to the combination of 
medications she recieved. Medication management was discussed 
with the patient prior to discharge and she voiced 
understanding. Her lisinopril dose was decreased from 20mg to 
5mg. Patient should follow up with her PCP regarding this 
medication dose change.
 
Medications on Admission:
ALPRAZOLAM [XANAX] - Xanax 2 mg tablet. 1 tablet(s) by mouth
three times daily -  (Prescribed by Other Provider)
BUTALBITAL-ACETAMINOPHEN-CAFF [FIORICET] - Fioricet 50 mg-300
mg-40 mg capsule. 1 capsule(s) by mouth every 6 hours as needed 
-
(Prescribed by Other Provider)
COLESTIPOL [COLESTID] - Colestid 1 gram tablet. 1 tablet(s) by
mouth at bedtime as needed -  (Prescribed by Other Provider)
DENOSUMAB [PROLIA] - Prolia 60 mg/mL subcutaneous syringe. 1 SC
every 6 months -  (Prescribed by Other Provider)
DEXTROAMPHETAMINE-AMPHETAMINE [ADDERALL] - Adderall 30 mg 
tablet.
1 tablet(s) by mouth twice daily -  (Prescribed by Other
Provider)
DICYCLOMINE - dicyclomine 10 mg capsule. 1 capsule(s) by mouth
four times daily as needed -  (Prescribed by Other Provider)
DIPHENOXYLATE-ATROPINE [LOMOTIL] - Lomotil 2.5 mg-0.025 mg
tablet. 1 tablet(s) by mouth four times daily as needed for
diarrhea -  (Prescribed by Other Provider)
GABAPENTIN - gabapentin 300 mg capsule. 4 capsule(s) by mouth
three times daily -  (Prescribed by Other Provider)
LISINOPRIL - lisinopril 20 mg tablet. 1 tablet(s) by mouth daily
-  (Prescribed by Other Provider)
MELOXICAM - meloxicam 15 mg tablet. 1 tablet(s) by mouth daily - 

(Prescribed by Other Provider)
NORTRIPTYLINE - nortriptyline  . 20 mg tab takes 2 at bedtime - 
(Prescribed by Other Provider)
ONDANSETRON HCL [ZOFRAN] - Zofran 4 mg tablet. 1 tablet(s) by
mouth every 8 hours as needed for nausea -  (Prescribed by Other
Provider)
TIZANIDINE [ZANAFLEX] - Zanaflex 4 mg capsule. 1 capsule(s) by
mouth hs -  (Prescribed by Other Provider)
TRAZODONE - trazodone 100 mg tablet. 2 tablet(s) by mouth 
bedtime
patient takes 100mg -  (Prescribed by Other Provider)
 
Medications - OTC
ACETAMINOPHEN - acetaminophen 500 mg tablet. 2 tablet(s) by 
mouth
four times daily -  (Prescribed by Other Provider)
CALCIUM CARBONATE [CALCIUM 500] - Calcium 500 500 mg calcium
(1,250 mg) tablet. 1 tablet(s) by mouth daily -  (Prescribed by
Other Provider)
CALCIUM CARBONATE [TUMS] - Tums 200 mg calcium (500 mg) chewable
tablet. 1 tablet(s) by mouth as needed -  (Prescribed by Other
Provider)
CHOLECALCIFEROL (VITAMIN D3) [VITAMIN D3] - Vitamin D3 2,000 
unit
capsule. 1 capsule(s) by mouth daily -  (Prescribed by Other
Provider)
CYANOCOBALAMIN (VITAMIN B-12) [VITAMIN B-12] - Vitamin B-12 500
mcg tablet. 1 tablet(s) by mouth  -  (Prescribed by Other
Provider)

 
Discharge Medications:
1.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
RX *bisacodyl 5 mg 2 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*3 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Severe 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
four (4) hours Disp #*25 Tablet Refills:*0 
4.  Lisinopril 5 mg PO DAILY 
Please follow up with your PCP regarding dose change. 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
5.  Nicotine Patch 14 mg/day TD DAILY 
RX *nicotine [Nicoderm CQ] 14 mg/24 hour Please apply one patch 
daily. once a day Disp #*21 Patch Refills:*0 
6.  Senna 17.2 mg PO QHS 
RX *sennosides [Senna Lax] 8.6 mg 2 tablet(s) by mouth at 
bedtime Disp #*60 Tablet Refills:*3 
7.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Headache 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
8.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
9.  ALPRAZolam 1 mg PO TID:PRN Anxiety   
10.  Gabapentin 1200 mg PO TID  
11.  Nortriptyline 25 mg PO QHS  
12.  Tizanidine 4 mg PO QHS  
13.  TraZODone 100 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
PCOMM Aneurysm 
Post-operative pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call your neurosurgeon’s office and speak to the Nurse 
Practitioner if you experience:

- Any neurological issues, such as change in vision, speech or 
movement

- Swelling, drainage, or redness of your incision

- Any problems with medications, such as nausea vomiting or 
lethargy

- Fever greater than 101.5 degrees Fahrenheit

- Headaches not relieved with prescribed medications

Activity:
- Start to resume all activities as you tolerate – but start 
slowly and increase at your own pace.

- Do not operate any motorized vehicle for at least 10 days 
after your surgery – your Nurse Practitioner can give you more 
detail at the time of your suture removal.  

Incision Care:

- Keep your wound clean and dry.

- Do not use shampoo until your sutures are removed. 

- When you are allowed to shampoo your hair, let the shampoo run 
off the incision line.  Gently pad the incision with a towel to 
dry.

- Do not rub, scrub, scratch, or pick at any scabs on the 
incision line.

- You need your sutures removed 7 to 10 days after surgery

Post-Operative Experiences: Physical

- Jaw pain on the same side as your surgery; this goes away 
after about a month

- You may experience constipation.  Constipation can be 
prevented by:

o Drinking plenty of fluids
oIncreasing fiber in your diet by eating vegetables, prunes, 
fiber rich breads and cereals, or fiber supplements
oExercising
oUsing over-the-counter bowel stimulants or laxatives as needed, 
stopping usage if you experience loose bowel movements or 
diarrhea

- Fatigue which will slowly resolve over time

- Numbness or tingling in the area of the incision; this can 
take weeks or months to fully resolve

- Muffled hearing in the ear near the incision area

- Low back pain or shooting pain down the leg which can resolve 
with increased activity

Post-Operative Experiences: Emotional

- You may experience depression.  Symptoms of depression can 
include

o Feeling “down” or sad
o Irritability, frustration, and confusion
o Distractibility
o Lower Self-Esteem/Relationship Challenges
o Insomnia
o Loneliness

- If you experience these symptoms, you can contact your Primary 
Care Provider who can make a referral to a Psychologist or 
Psychiatrist

- You can also seek out a local Brain Aneurysm Support Group in 
your area through the Brain Aneurysm Foundation

o More information can be found at ___

 
Followup Instructions:
___